US08497265B2
A mixture of 2-(3-((3-bromopyridin-2-yl)oxy)azetidin-1-yl)quinoline (see PREPARATION P2.9; 177 mg, 0.50 mmol), piperidine-4-carbonitrile (55 mg, 0.50 mmol), Pd2(dba)3 (22 mg, 0.025 mmol), 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (BINAP) (16 mg, 0.025 mmol) and t-BuONa (106 mg, 1.0 mmol) in toluene (10 mL) was stirred at 100° C. for 10 hours. The mixture was left to reach RT and filtered through a pad of CELITE® and the filter cake was washed with CH2Cl2 (30 mL). The combined filtrate was evaporated in vacuo and the residue was purified by flash column chromatography (30% to 50% EtOAc in petroleum ether) and followed by purification by reverse phase HPLC (10% to 80% water/MeCN) to afford 1-(2-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyridin-3-yl)piperidine-4-carbonitrile (80 mg, 0.20 mmol, yield 40%). ESI-MS (M+1): 386 calc. for C23H23N5O 385.

reactant | 2-(3-((3-bromopyridin-2-yl)oxy)azetidin-1-yl)quinoline | 0.50 mmol, 177 mg | BrC=1C(=NC=CC1)OC1CN(C1)C1=NC2=CC=CC=C2C=C1 | C17H14BrN3O
reactant | piperidine-4-carbonitrile | 0.50 mmol, 55 mg | N1CCC(CC1)C#N | C6H10N2
reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.025 mmol, 16 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | t-BuONa | 1.0 mmol, 106 mg | C(C)(C)(C)O[Na]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.025 mmol, 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(2-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyridin-3-yl)piperidine-4-carbonitrile | 0.20 mmol, 80 mg, yield 40% | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC1=NC=CC=C1N1CCC(CC1)C#N | C23H23N5O
